US07741327B2
To a solution of 2-fluoro-3-methyl-phenylboronic acid (25.0 g, 0.162 mol) in tetrahydrofuran (220 mL) was added glacial acetic acid (150 mL). The resulting mixture was cooled to 0° C. before hydrogen peroxide (50% aqueous solution, 30 mL) was added. The resulting mixture was allowed to come to room temperature and stirred for 24 h. The mixture was evaporated and the residue was dissolved in ethyl acetate, washed with hydrochloric acid (0.5N), water and brine. The organic phase was dried, filtered and evaporated which afforded 2-fluoro-3-methyl-phenol (20.0 g, 98%) as an oil.

reactant | 2-fluoro-3-methyl-phenylboronic acid | 0.162 mol, 25.0 g | FC1=C(C=CC=C1C)B(O)O | C7H8BFO2
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 30 mL | OO | H2O2
solvent | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
product | 2-fluoro-3-methyl-phenol | 20.0 g, 98% | FC1=C(C=CC=C1C)O | C7H7FO
